US07893056B2
1-(Phenylmethyl)-L-proline hydrochloride (2.0 g, 8.247 mmol) and HOBt (1.34 g, 9.928 mmol) were dissolved in CH2Cl2 (50 mL), and 4-methylmorpholine (3.63 mL, 33.09 mmol), pyrrolidine (0.760 mL, 9.101 mmol), and EDCI (1.906 g, 9.928 mmol) were added. The solution was stirred overnight, and was then washed with water (50 mL). The aqueous layer was extracted with CH2Cl2 (3×50 mL), and the combined organic layers were dried over anhydrous MgSO4 and concentrated in vacuo. This crude product was purified by flash chromatography (Combiflash, 0-100% ethyl acetate/hexanes, 1% triethylamine) to provide (2S)-1-(phenylmethyl)-2-(1-pyrrolidinylcarbonyl)pyrrolidine (1.619 g, 76%). LCMS: (M+H)+: 259.2

reactant | 1-(Phenylmethyl)-L-proline hydrochloride | 8.247 mmol, 2.0 g | Cl.C1(=CC=CC=C1)CN1[C@H](C(=O)O)CCC1
reactant | HOBt | 9.928 mmol, 1.34 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 33.09 mmol, 3.63 mL | CN1CCOCC1 | C5H11NO
reactant | pyrrolidine | 9.101 mmol, 0.760 mL | N1CCCC1 | C4H9N
reactant | EDCI | 9.928 mmol, 1.906 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (2S)-1-(phenylmethyl)-2-(1-pyrrolidinylcarbonyl)pyrrolidine | 1.619 g, 76% | C1(=CC=CC=C1)CN1[C@@H](CCC1)C(=O)N1CCCC1 | C16H22N2O
